US08975264B2
Step 2: Preparation of 5-chloro-7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine (Chemical Formula 37)
7-(3,5-Difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (521 mg) is dissolved in POCl3 (15 mL) and pyridine (0.2 mL) and stirred overnight while heating at 100° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with 1 M NaHCO3 aqueous solution and brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield the target compound (327 mg). 1H NMR (CDCl3, 300 MHz) δ 7.63 (m, 2H), 7.02 (m, 1H), 6.82 (m, 1H), 6.52 (m, 1H), 2.52 (s, 3H).

reactant | 7-(3,5-Difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 521 mg | FC=1C=C(C=C(C1)F)C1=CC(NC=2N1N=C(C2)C)=O | C13H9F2N3O
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine | 327 mg | ClC1=NC=2N(C(=C1)C1=CC(=CC(=C1)F)F)N=C(C2)C | C13H8ClF2N3
